US05576340
A procedure similar to that described in Example 6 was repeated, except that 3 g of 2-amino-1-(3,5-di-t-butyl-4-hydroxyphenyl)ethanol (prepared as described in Preparation 35), 2.2 g of methyl 4-(2-oxopropoxy)phenylacetate (prepared as described in Preparation 3), 100 ml of benzene, 60 ml of absolute methanol and 4 g of sodium cyanoborohydride were used, and that the product was purified by repeated column chromatography through silica gel, using as the eluent first ethyl acetate and then a 1:1 by volume mixture of benzene and ethyl acetate. 2.1 g of 2-[2-(4-methoxycarbonylmethylphenoxy)-1-methylethyl]amino-1-(3,5-di-t-butyl-4-hydroxyphenyl)ethanol were obtained. This product was then mixed with 246 mg of fumaric acid, and the mixture was recrystallized from ethyl acetate, to give 1.5 g of the title compound as crystals, melting at 171°-174° C.

reactant | 2-amino-1-(3,5-di-t-butyl-4-hydroxyphenyl)ethanol | 3 g | NCC(O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C16H27NO2
reactant | methyl 4-(2-oxopropoxy)phenylacetate | 2.2 g | O=C(COC1=CC=C(C=C1)CC(=O)OC)C | C12H14O4
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
reactant | sodium cyanoborohydride | 4 g | C(#N)[BH3-].[Na+]
solvent | methanol | 60 ml | CO | CH4O
product | 2-[2-(4-methoxycarbonylmethylphenoxy)-1-methylethyl]amino-1-(3,5-di-t-butyl-4-hydroxyphenyl)ethanol | 2.1 g | COC(=O)CC1=CC=C(OCC(C)NCC(O)C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C=C1 | C28H41NO5
